US07524841B2
After adding 3,5-dichloro-2-hydroxybenzaldehyde (57.3 mg, 0.3 mmol) and sodium triacetoxyborohydride (64 mg, 0.3 mmol) to a solution of 2-{[(4-fluoro-4-piperidyl)methyl]amino}benzimidazole-5-carboxylic acid methyl ester hydrochloride (30 mg, 0.1 mmol) in DMF-acetic acid (10:1) (1.0 ml), the mixture was stirred at room temperature overnight. Methanol (1.0 ml) was added to the reaction mixture to suspend the reaction, and after stirring for 1 hour, the solution was passed through SCX (Bond Elute SCX500MG: cationic ion-exchange resin, Varian). The SCX was washed with methanol and then with a mixed solution of chloroform/methanol (1/1), and elution was performed with a 0.5 N ammonia-dioxane solution to obtain 2-[({1-[(3,5-dichloro-2-hydroxyphenyl)methyl]4-fluoro-4-piperidyl}methyl)amino]benzimidazole-5-carboxylic acid methyl ester. The compound was identified by LC-MS.

reactant | 3,5-dichloro-2-hydroxybenzaldehyde | 0.3 mmol, 57.3 mg | ClC=1C(=C(C=O)C=C(C1)Cl)O | C7H4Cl2O2
reactant | sodium triacetoxyborohydride | 0.3 mmol, 64 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-{[(4-fluoro-4-piperidyl)methyl]amino}benzimidazole-5-carboxylic acid methyl ester hydrochloride | 0.1 mmol, 30 mg | Cl.COC(=O)C1=CC2=C(N=C(N2)NCC2(CCNCC2)F)C=C1
reactant | Methanol | 1.0 ml | CO | CH4O
solvent | DMF acetic acid | 1.0 ml | CN(C)C=O.C(C)(=O)O
product | 2-[({1-[(3,5-dichloro-2-hydroxyphenyl)methyl]4-fluoro-4-piperidyl}methyl)amino]benzimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)NCC2(CCN(CC2)CC2=C(C(=CC(=C2)Cl)Cl)O)F)C=C1 | C22H23Cl2FN4O3
